US07393852B2
N-Cycloheptyl-2-(5,5-dimethyl-3-oxo-1-(2,4,6-trimethylbenzene-sulfonyl)piperazin-2(R,S)-yl)acetamide
To (5,5-dimethyl-3-oxo-1-(2,4,6-trimethylbenzene-sulfonyl)piperazin-2-yl)acetic acid (0.32 g, 0.94 mmol) in DMF (3 mL) was added cycloheptyl amine (0.5 mL), EDC (0.5 g, 2.5 mmol), and DMAP (0.3 g, 2.6 mmol). The mixture was stirred at RT overnight. TLC indicated that the reaction was not complete. Additional EDC (0.3 g) was added and the mixture was heated at 65° C. for 1 h. The mixture was cooled to RT. EtOAc (80 mL) was added and mixture was washed with dilute HCl in brine. The EtOAc solution was dried and evaporated to give the crude compound. Column chromatograph purification (silica gel, 0-2% MeOH/CH2Cl2) gave the titled compound. MS: 464.1 (M+1)+.

reactant | (5,5-dimethyl-3-oxo-1-(2,4,6-trimethylbenzene-sulfonyl)piperazin-2-yl)acetic acid | 0.94 mmol, 0.32 g | CC1(NC(C(N(C1)S(=O)(=O)C1=C(C=C(C=C1C)C)C)CC(=O)O)=O)C | C17H24N2O5S
reactant | cycloheptyl amine | 0.5 mL | C1(CCCCCC1)N | C7H15N
reactant | EDC | 2.5 mmol, 0.5 g
reactant | EDC | 0.3 g
reactant | EtOAc | 80 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 2.6 mmol, 0.3 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-Cycloheptyl-2-(5,5-dimethyl-3-oxo-1-(2,4,6-trimethylbenzene-sulfonyl)piperazin-2(R,S)-yl)acetamide | C1(CCCCCC1)NC(CC1N(CC(NC1=O)(C)C)S(=O)(=O)C1=C(C=C(C=C1C)C)C)=O | C24H37N3O4S
